US07141583B2
(5R)-3-(4-((3R)-3-Aminopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
(5R)-3-(4-((3R)-3-(t-Butoxycarbonyl)aminopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one (532 mg, 1.2 mM), was dissolved in dichloromethane (10 ml), and treated with a solution of hydrogen chloride in ethanol (3.8M, 2 ml). After stirring 4 hours at ambient temperature, the precipitated hydrochloride of the product (230 mg) was filtered, and the filtrate diluted with diethyl ether to deposit more product (218 mg).

reactant | (5R)-3-(4-((3R)-3-(t-Butoxycarbonyl)aminopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 1.2 mM, 532 mg | C(C)(C)(C)OC(=O)N[C@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F | C21H27FN6O4
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethanol | 3.8M, 2 ml | C(C)O | C2H6O
product | (5R)-3-(4-((3R)-3-Aminopyrrolidin-1-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | N[C@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F | C16H19FN6O2
